US07737141B2
Synthesis of (1S,6R,9aR)-6-(4-chlorophenyl)-1-methyltetrahydro[1,4]oxazino[3,4-c][1,4]oxazine-3,4-dione
To a solution consisting of (S)-1-[(3R,5R)-5-(4-chlorophenyl)morpholine-3-yl]ethanol (833 g) and pyridine (4 mL) in dichloromethane (15 mL) was dropwise added oxalyl chloride (833 μL) while cooling with ice. The resultant solution was stirred at the same temperature for 30 minutes, and then at room temperature for 1 hour. The reaction solution was diluted with water, and the organic layer was partitioned. The organic layer was then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure, and the resulting residue was purified by silica gel column chromatography (heptane/ethyl acetate→ethyl acetate), to thereby obtain the titled compound (686 mg). The physical properties of the compound were as follows. ESI-MS; m/z 296 [M++H]. 1H-NMR (CDCl3) δ (ppm): 1.51 (d, J=6.4 Hz, 3H), 3.52 (dd, J=12.0, 12.0 Hz, 1H), 3.78 (dd, J=12.4, 8.0 Hz, 1H), 4.02 (dd, J=11.6, 4.4 Hz, 1H), 4.18 (dd, J=12.4, 4.8 Hz, 1H), 4.51 (ddd, J=11.2, 4.0, 4.0 Hz, 1H), 4.61-4.67 (m, 1H), 4.89 (dd, J=8.0, 4.8 Hz, 1H), 7.32 (s, 4H).

reactant | (S)-1-[(3R,5R)-5-(4-chlorophenyl)morpholine-3-yl]ethanol | 833 g | ClC1=CC=C(C=C1)[C@@H]1COC[C@@H](N1)[C@H](C)O | C12H16ClNO2
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 833 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (1S,6R,9aR)-6-(4-chlorophenyl)-1-methyltetrahydro[1,4]oxazino[3,4-c][1,4]oxazine-3,4-dione | 686 mg | ClC1=CC=C(C=C1)[C@H]1N2[C@H](COC1)[C@@H](OC(C2=O)=O)C | C14H14ClNO4
